** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_rs-ff.sch
.subckt hv_rs-ff VDD nS Q nQ nR VSS
*.PININFO nS:I VDD:B VSS:B Q:O nR:I nQ:O
x4 VDD nS Q nQ VSS hv_nand
x5 VDD Q nQ nR VSS hv_nand
.ends

* expanding   symbol:  hv_nand.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sch
.subckt hv_nand VDD in1 out in2 VSS
*.PININFO in1:I VDD:B VSS:B out:O in2:I
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
XM2 out in1 net1 VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in2 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM1 net1 in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM4 out in1 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
.ends

