** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sch
.subckt low_th_inverter VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:O
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={n_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={n_ng} m=1 mm_ok=1
**** begin user architecture code


.param n_ng = 2
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 1u
.param p_l = 0.4u


**** end user architecture code
.ends
