** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/lvl_shift_up.sch
.subckt lvl_shift_up VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
XM1 net1 in VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={n_ng} m=1 mm_ok=1
XM2 net1 in VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={n_ng} m=1 mm_ok=1
x4 VDD net1 out VSS hv_inverter_6u5
**** begin user architecture code


.param n_ng = 2
.param n_w = 10u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 1u
.param p_l = 0.45u


**** end user architecture code
.ends

* expanding   symbol:  hv_inverter_6u5.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_6u5.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_6u5.sch
.subckt hv_inverter_6u5 VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param ng  = 1
.param n_ng = ng
.param n_w = {2u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {6.5u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends

